US09056874B2
(+) or (−)-2-(1-amino-2,2,2-trifluoro-1-(5-hydroxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a suspension of (−)-2-(1-amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile (Example 36-E-b) (63 mg, 0.158 mmol) in methylene chloride (Volume: 1.6 mL) at 0° C. was added 1 M BBr3 in DCM (315 μl, 0.315 mmol). The reaction was stirred in ice bath for 5 minutes and then the suspension was allowed to stir at room temperature for 2 hours. The reaction was poured into ice water, treated with saturated a solution of sodium bicarbonate, and then diluted with EtOAc and the EtOAc layer was removed, dried, concentrated and absorbed onto silica to purify via FCC (0-5% MeOH containing 10% ammonium hydroxide:dcm) to obtain the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.55-12.76 (m, 1H) 11.01-11.28 (m, 1H) 10.82 (br. s., 1H) 8.35 (s, 1H) 7.83-8.06 (m, 1H) 7.46-7.65 (m, 2H) 6.88 (t, J=2.91 Hz, 1H) 6.50 (s, 1H) 4.84 (br. s., 1H) 2.27-2.43 (m, 3H). MS (ESI+) m/z 386.3 (M+H).

reactant | (−)-2-(1-amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.158 mmol, 63 mg | NC(C(F)(F)F)(C1=C2C=CNC2=C(C=C1OC)C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H16F3N5O
reactant | BBr3 | 1 M | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.6 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 0.315 mmol, 315 μl | C(Cl)Cl | CH2Cl2
product | (−)-2-(1-amino-2,2,2-trifluoro-1-(5-hydroxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C(F)(F)F)(C1=C2C=CNC2=C(C=C1O)C)C1=NC2=C(N1)C=CC(=C2)C#N | C19H14F3N5O
